US05334761
To a three-necked, 2-liter round bottom flask equipped with a Dean-Stork trap were added 3 -dimethylamino-1,2 -propanediol (6.08 g, 51.1 mmoles), xylene (1300 ml) and KOH (8.0 g). The solution was refluxed for 2 hours while removing water azeotropically via the Dean-Stork trap. Oleyl mesylate (40.0 g, 115.6 mmoles) in 100 ml xylene was added to the reaction mixture drop-wise in 30 minutes. Refluxing was continued for 3 hours and the reaction mixture concentrated to a gum. The gum was triturated with 400 ml hexane and filtered. The solid was washed with 100 ml hexane followed with 200 ml ethyl acetate. The filtrates were combined, concentrated and subjected to f lash chromatography. 2,3-dioleyloxy-1- (N, N-dimethylamino) propane was obtained as a colorless oil in 76% yield, TLC: Rf =0.37 (Silica gel: 5% EtOAc: hexane); IR: 2925, 2850, 1469, 1120, 1040 cm-1 ; HNMR (CDCl3) δ 5.35 (t, 4H) , 4.13 (q, 1H) 3.4-3.65 (m, 6H), 2.35-2.45 (m, 2H) , 2.25 (S, 6H) , 1.95-2.05 (m, 8H) , 1.5-1.65 (m, 4H) , 1.2-1.45 (m, 4H) 0.9 (t, 6H).

reactant | 3 -dimethylamino-1,2 -propanediol | 51.1 mmoles, 6.08 g | CN(CC(CO)O)C | C5H13NO2
reactant | KOH | 8.0 g | [OH-].[K+]
reactant | Oleyl mesylate | 115.6 mmoles, 40.0 g | S(C)(=O)(=O)OCCCCCCCC\C=C/CCCCCCCC | C19H38O3S
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 1300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,3-dioleyloxy-1- (N, N-dimethylamino) propane | 76% yield | C(CCCCCCC\C=C/CCCCCCCC)OC(CN(C)C)COCCCCCCCC\C=C/CCCCCCCC | C41H81NO2
